US06156776
A mixture of 3-(p-tolyl)-5-chloro-1,2,4-thiadiazole (0.50 g, 2.37 mmol) and [1,3-bis(diphenylphosphino)propane]nickel(II) chloride catalyst (1.41 g, 2.61 mmol) in anhydrous THF (20 ml) is cooled in an ice-water bath. To this mixture is added slowly 4-fluorophenyl-magnesium bromide (1.0M in THF, 2.5 ml, 2.49 mmol) with exclusion of both moisture and oxygen. The mixture is allowed to warm to room temperature and stirred for 18 hours under N2. The mixture is filtered through celite and concentrated. The residue is taken up in CHCl3 (50 ml) and washed with brine (50 ml×2). The organic layer is dried over magnesium sulfate and concentrated. The residue is purified on a silica gel column, eluting with 3:7 CHCl3 :hexanes to yield 5-(4'-fluorophenyl)-3-(p-tolyl)-1,2,4-thiadiazole (0.20 g, 31%).

reactant | 3-(p-tolyl)-5-chloro-1,2,4-thiadiazole | 2.37 mmol, 0.50 g | C1(=CC=C(C=C1)C1=NSC(=N1)Cl)C | C9H7ClN2S
reactant | 4-fluorophenyl-magnesium bromide | 2.49 mmol, 1.0M, 2.5 ml | FC1=CC=C(C=C1)[Mg]Br
reactant | oxygen | O=O | O2
catalyst | [1,3-bis(diphenylphosphino)propane]nickel(II) chloride | 2.61 mmol, 1.41 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(4'-fluorophenyl)-3-(p-tolyl)-1,2,4-thiadiazole | 0.20 g, 31% | FC1=CC=C(C=C1)C1=NC(=NS1)C1=CC=C(C=C1)C | C15H11FN2S
